US07465726B2
(6-Nitrobenzothiazol-2-yl)-phenethylamine
The title compound was prepared following the procedure for N,N-dimethyl-N′-(6-nitrobenzothiazol-2-yl)-ethane-1,2-diamine, using 4 eq of phenethylamine. Modified workup: Solid that had precipitated during course of reaction (amine salt) was filtered; no aqueous workup was conducted. 1H NMR (400 MHz, CDCl3): δ=3.03 (t, J=6.4 Hz, 3H), 3.77 (q, J=6.4 Hz, 2H), 7.23-7.30 (m, 3H), 7.33-7.38 (m, 2H), 7.52 (d, J=8.8 Hz, 1H), 8.21 (dd, J=8.8, 2.4 Hz, 1H), 8.51 (d, J=2.4 Hz, 1H). MS (ES+): m/z 300.10 [MH+]. HPLC: tR=3.57 min (ZQ2000, polar—5 min).

reactant | N,N-dimethyl-N′-(6-nitrobenzothiazol-2-yl)-ethane-1,2-diamine | CN(CCNC=1SC2=C(N1)C=CC(=C2)[N+](=O)[O-])C | C11H14N4O2S
reactant | phenethylamine | 4 eq | C(CC1=CC=CC=C1)N | C8H11N
product | (6-Nitrobenzothiazol-2-yl)-phenethylamine | [N+](=O)([O-])C1=CC2=C(N=C(S2)NCCC2=CC=CC=C2)C=C1 | C15H13N3O2S
